US04393059
To a suspension of p-nitrobenzyl 7-phenylacetamido-3-cephem-4-carboxylate (10.50 g.) in dry dichloromethane (100 ml.) was added dry pyridine (2.14 g.). Phosphorus pentachloride (5.50 g.) was added to the solution at -10° C., and the mixture was stirred at -5° C. for 45 minutes and further at 10° C. for an hour. After adding methanol (520 g.) to the resultant mixture, the mixture was stirred at -20° C. for 1.5 hours. The precipitates were collected by filtration, washed with dichloromethane (120 ml.) and diethyl ether (130 ml.) in turn, and then dried to give p-nitrobenzyl 7-amino-3-cephem-4-carboxylate (7.90 g.), m.p. 182° C. (dec.).

reactant | p-nitrobenzyl 7-phenylacetamido-3-cephem-4-carboxylate | 10.50 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C22H19N3O6S
reactant | pyridine | 2.14 g | N1=CC=CC=C1 | C5H5N
reactant | Phosphorus pentachloride | 5.50 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | methanol | 520 g | CO | CH4O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | p-nitrobenzyl 7-amino-3-cephem-4-carboxylate | 7.90 g | NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C14H13N3O5S
